US05843983
14(a) (2R,4R)-1-Ethoxycarbonyl-4-hydroxy-2-{2-[4-methoxy-2-(2-phenylethyl)phenoxy]ethyl}pyrrolidine
1130 mg of 4-methoxy-2-(2-phenylethyl)phenol were dissolved in 10 ml of N,N-dimethylacetamide, allowed to react with 610 mg of potassium t-butoxide and 1000 mg of (2S,4R)-2-(2-chloroethyl)-1-ethoxycarbonyl-4-hydroxypyrrolidine and extracted in the same manner as described in step (a) of Example 2. The resulting oily substance was purified by silica gel column chromatography, using a 1:2 by volume mixture of hexane and ethyl acetate as the eluent, to give 448 mg (yield 24%) of the title compound as an oily substance.

reactant | 4-methoxy-2-(2-phenylethyl)phenol | 1130 mg | COC1=CC(=C(C=C1)O)CCC1=CC=CC=C1 | C15H16O2
reactant | potassium t-butoxide | 610 mg | CC(C)([O-])C.[K+]
reactant | (2S,4R)-2-(2-chloroethyl)-1-ethoxycarbonyl-4-hydroxypyrrolidine | 1000 mg | ClCC[C@H]1N(C[C@@H](C1)O)C(=O)OCC | C9H16ClNO3
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | (2R,4R)-1-Ethoxycarbonyl-4-hydroxy-2-{2-[4-methoxy-2-(2-phenylethyl)phenoxy]ethyl}pyrrolidine | 448 mg, yield 24% | C(C)OC(=O)N1[C@@H](C[C@H](C1)O)CCOC1=C(C=C(C=C1)OC)CCC1=CC=CC=C1 | C24H31NO5
